US04304770
Conc.hydrochloric acid (0.9 g) was added at ambient temperature to a solution of 7-[2-ethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.4 g) in a mixture of methanol (16.8 ml) and tetrahydrofuran (4.8 ml) and the mixture was stirred for 3 hours at 30° C. The solvent was distilled off under reduced pressure and the residue was dissolved in a saturated aqueous solution of sodium bicarbonate. The aqueous solution was washed with ethyl acetate and adjusted to pH 2.8 with conc.hydrochloric acid. Precipitates were collected by filtration, washed with water and dried to give 7-[2-ethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.72 g).

reactant | hydrochloric acid | 0.9 g | Cl | ClH
reactant | 7-[2-ethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.4 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C20H21N9O6S3
solvent | methanol | 16.8 ml | CO | CH4O
solvent | tetrahydrofuran | 4.8 ml | O1CCCC1 | C4H8O
product | 7-[2-ethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.72 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)N | C19H21N9O5S3
